US07629465B2
50 gm. of 4,5,6,7-tetrahydrothieno(3,2-c)pyridine hydrochloride was charged in 1 liter reaction vessel containing 500 ml. water and 75.4 gm. sodium carbonate and stirred for 1 hour. 75 gm. of methyl-1-bromo-(2-chlorophenyl) acetate in 250 ml. dichloroethane was added, stirred at 25° C. for 8 hours. The organic layer was separated and washed with water, and distilled the dichloroethane to obtain Clopidogrel base as an oil.

reactant | 4,5,6,7-tetrahydrothieno(3,2-c)pyridine hydrochloride | Cl.S1C=CC=2CNCCC21
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl-1-bromo-(2-chlorophenyl) acetate | C(C)(=O)OC1(C(C(=CC=C1)C)Cl)Br | C9H10BrClO2
reactant | dichloroethane | ClC(C)Cl | C2H4Cl2
solvent | water | O | H2O
product | Clopidogrel | COC(=O)[C@H](C=1C=CC=CC1Cl)N2CCC3=C(C=CS3)C2 | C16H16ClNO2S
